US08252755B2
Preparation of icosane-1,3-diol (XXII)
Methyl 3-oxoicosanoate (5.2 g, 15.3 mmoles) is dissolved in anhydrous tetrahydrofuran (31 mL) and this solution is added slowly dropwise to an ice-cooled solution of lithium borohydride in anhydrous tetrahydrofuran (2 M, 31 mL, 61.2 mmoles). When the addition is complete, the cooling bath is removed and the reaction is stirred at ambient temperature for 16 hours. The clear, colorless solution is again cooled in an ice bath, and aqueous hydrochloric acid (1 M, 62 mL) is added slowly dropwise to decompose the excess reducing agent (gas is evolved). When a homogeneous solution is obtained, the mixture is concentrated to remove tetrahydrofuran. Methylene chloride (100 mL) is added; the mixture is shaken well and poured into a separatory funnel. The layers are allowed to separate and the bottom aqueous layer is drawn off. The aqueous layer is then washed once more with methylene chloride (100 mL), and the combined methylene chloride solutions are washed with saturated aqueous sodium chloride (50 mL). The methylene chloride solution is then dried over anhydrous sodium sulfate, filtered and co-evaporated five times with methanol (50 mL each) to dryness. The oil is dried well in vacuo. The yield is 3.7 g (77%).

reactant | Methyl 3-oxoicosanoate | 15.3 mmoles, 5.2 g | O=C(CC(=O)OC)CCCCCCCCCCCCCCCCC | C21H40O3
reactant | lithium borohydride | [BH4-].[Li+]
solvent | tetrahydrofuran | 31 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 61.2 mmoles, 2 M, 31 mL | O1CCCC1 | C4H8O
product | icosane-1,3-diol | C(CC(CCCCCCCCCCCCCCCCC)O)O | C20H42O2
